US06043358
Hydrogen chloride gas (2.0 g, 55 mmol) was bubbled into 15 mL of ethyl acetate at 0° C. over 3 min. 1-(tert-Butoxycarbonyl)-5-iminohexahydro-(1H)-1,4-diazepine hydrochloride (85 mg, 0.34 mmol ) was added and mixture was stirred at room overnight. Removal of solvent and hydrogen chloride in vacuo gave 60 mg (95%) of hexahydro-5-imino-(1H)-1,4-diazepine dihydrochloride as a yellow solid.

reactant | Hydrogen chloride | 55 mmol, 2.0 g | Cl | ClH
reactant | 1-(tert-Butoxycarbonyl)-5-iminohexahydro-(1H)-1,4-diazepine hydrochloride | 0.34 mmol, 85 mg | Cl.C(C)(C)(C)OC(=O)N1CCNC(CC1)=N
solvent | ethyl acetate | 15 mL | C(C)(=O)OCC | C4H8O2
product | hexahydro-5-imino-(1H)-1,4-diazepine dihydrochloride | 60 mg, 95% | Cl.Cl.N=C1NCCNCC1 | InChI=1S/C5H11N3.2ClH/c6-5-1-2-7-3-4-8-5;;/h7H,1-4H2,(H2,6,8);2*1H
